US07022851B2
4-{[6-N-(Benzhydryloxycarbonyl)-adenin-9-yl]-acetyl}-1-(4-fluoro-2-nitro-benzenesulfonyl)-piperazin-2-one
The title compound (805 mg, 58%) was synthesized by reaction of 1-(4-fluoro-2-nitro-benzenesulfonyl)-piperazin-2-one HCl salt (679 mg, 2.0 mmol) with [6-N-(benzhydryloxycarbonyl)-adenin-9-yl]-acetic acid (807 mg, 2.0 mmol) as per the procedure of example 73. 1H NMR (DMSO-d6) δ 10.95 (s, 1H), 8.59 (s, 0.6H), 8.58 (s, 0.4H), 8.47˜8.40 (m, 1H), 8.33 (s, 0.6H), 8.30 (s, 0.4H), 8.26 (m, 1H), 7.88 (m, 1H), 7.53˜7.27 (m, 10H), 6.82 (s, 1H), 5.38 (s, 1.2H), 5.30 (s, 0.8H), 4.56 (s, 0.8H), 4.27 (s, 1.2H), 4.12˜4.06 (m, 2.4H), 3.91˜3.85 (br. m, 1.6H).

reactant | 1-(4-fluoro-2-nitro-benzenesulfonyl)-piperazin-2-one HCl salt | 2.0 mmol, 679 mg | Cl.FC1=CC(=C(C=C1)S(=O)(=O)N1C(CNCC1)=O)[N+](=O)[O-]
reactant | [6-N-(benzhydryloxycarbonyl)-adenin-9-yl]-acetic acid | 2.0 mmol, 807 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)NC1=C2N=CN(C2=NC=N1)CC(=O)O | C21H17N5O4
product | 4-{[6-N-(Benzhydryloxycarbonyl)-adenin-9-yl]-acetyl}-1-(4-fluoro-2-nitro-benzenesulfonyl)-piperazin-2-one | 805 mg, 58% | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)NC1=C2N=CN(C2=NC=N1)CC(=O)N1CC(N(CC1)S(=O)(=O)C1=C(C=C(C=C1)F)[N+](=O)[O-])=O | C31H25FN8O8S
